US06476053B1
1-Decylpyrrolidine-2,5-dione
Succinimide (0.1 M) dissolved in dry dimethylformamide was treated with sodium hydride (0.1 M) at a temperature of 0° C. Nonyl bromide (0.1 M) was then added and the reaction mixture was stirred at room temperature for three hours. The reaction mixture was concentrated in vacuo and the residue extracted into ethyl acetate. The ethyl acetate layer was washed with water, dried over sodium sulphate and concentrated in vacuo. The residue obtained was chromatographed over silica gel to afford the desired product. 1HNMR: δ 0.75 (3H, t), 1.10-1.20 (12H, m), 1.35-1.45 (2H, m), 2.55 (4H, s), 3.35 (2H, dd)

reactant | Succinimide | 0.1 M | C1(CCC(N1)=O)=O | C4H5NO2
reactant | sodium hydride | 0.1 M | [H-].[Na+]
reactant | Nonyl bromide | 0.1 M | C(CCCCCCCC)Br | C9H19Br
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Decylpyrrolidine-2,5-dione | C(CCCCCCCCC)N1C(CCC1=O)=O | C14H25NO2
